US04039579
2-[1-(Butylimino)-2-(methylsulfinyl)ethyl]-6-methoxyphenol
A solution of 2'-hydroxy-3'-methoxy-2-(methylsulfinyl)acetophenone (5 g, 0.022 mole) in n-butylamine (25 ml) was stirred at room temperature for 24 hrs. The reaction mixture was poured into petroleum ether (200 ml) and the product, which precipitated, was filtered off. Recrystallization from ethylacetate gave yellow crystals (6.0 g, 97%), mp 125°-127°.

reactant | 2'-hydroxy-3'-methoxy-2-(methylsulfinyl)acetophenone | 0.022 mole, 5 g | OC1=C(C=CC=C1OC)C(CS(=O)C)=O | C10H12O4S
reactant | n-butylamine | 25 ml | C(CCC)N | C4H11N
product | 2-[1-(Butylimino)-2-(methylsulfinyl)ethyl]-6-methoxyphenol | 6.0 g, 97% | C(CCC)N=C(CS(=O)C)C1=C(C(=CC=C1)OC)O | C14H21NO3S
